US07868197B2
2-Bromo-4,6-dimethylaniline
To a solution of 50.0 g (0.413 mol) of 2,4-dimethylaniline in 1500 cm3 of glacial acetic acid 21.2 ml (65.6 g, 0.410 mol) of bromine was added dropwise while vigorously stirring for ca. 20 min. This mixture was stirred for 2 h at 40° C. The precipitate formed was filtered off, washed with 50 ml of acetic acid, and dried in air. Then, this white solid was added to a solution of 100 g of potassium hydroxide in 400 ml of water. This mixture was stirred for 30 min. The crude product was extracted with 3×100 ml of dichloromethane. The combined extract was dried over Na2SO4 and evaporated to dryness. Fractional distillation gave a yellowish liquid, bp 83-85° C./1 mm Hg. Yield 46.9 g (57%).

reactant | 2,4-dimethylaniline | 0.413 mol, 50.0 g | CC1=C(N)C=CC(=C1)C | C8H11N
reactant | acetic acid | 0.410 mol, 1500 cm3, 65.6 g | C(C)(=O)O | C2H4O2
reactant | bromine | BrBr | Br2
product | 2-Bromo-4,6-dimethylaniline | BrC1=C(N)C(=CC(=C1)C)C | C8H10BrN
